US06964961B2
B. (+/−)-Dimethylsulfamic acid {1-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide
The title compound was prepared from (+/−)-dimethylsulfamic acid {1-[7-chloro-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide and 2-methyl-1H-indol-5-ylamine by a procedure analogous to Example 1C. MS: 499 (MH+); HPLC Rf: 4.04 min.; HPLC purity 96%.

reactant | (+/−)-dimethylsulfamic acid {1-[7-chloro-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2CC(CC2)NS(N(C)C)(=O)=O | C14H17ClN4O3S2
reactant | 2-methyl-1H-indol-5-ylamine | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
product | (+/−)-Dimethylsulfamic acid {1-[7-(2-methyl-1H-indol-5-ylamino)-thieno[3,2-b]pyridine-2-carbonyl]-pyrrolidin-3-yl}-amide | CC=1NC2=CC=C(C=C2C1)NC1=C2C(=NC=C1)C=C(S2)C(=O)N2CC(CC2)NS(N(C)C)(=O)=O | C23H26N6O3S2
